US07776857B2
To a mixture of tetrakis(triphenylphosphine)palladium (188 mg, 163 μmol) and sodium methoxide (176 mg, 3251 μmol) was added a solution of 4-(7-bromo-1,5-naphthyridin-4-ylthio)benzenamine (540 mg, 1625 μmol) in DMF (2 mL). The resealable tube was purged with argon, and the mixture was heated to 100° for 1.5 h. The mix was diluted with ethyl acetate, washed with brine twice, dried with sodium sulfate, and concentrated. The residue was purified by silica gel chromatography using 1-10% MeOH:CH2Cl2 w/1% NH4OH to provide 4-(1,5-naphthyridin-4-ylthio)benzenamine. MS m/z=254 [M]+. Calc'd for C14H11N3S: 253.32.

reactant | sodium methoxide | 3251 μmol, 176 mg | C[O-].[Na+]
reactant | 4-(7-bromo-1,5-naphthyridin-4-ylthio)benzenamine | 1625 μmol, 540 mg | BrC1=CN=C2C(=CC=NC2=C1)SC1=CC=C(C=C1)N | C14H10BrN3S
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 163 μmol, 188 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(1,5-naphthyridin-4-ylthio)benzenamine | N1=CC=C(C2=NC=CC=C12)SC1=CC=C(C=C1)N | C14H11N3S
